*************
* REVISION 1 9-OCT-2006
* BEGIN MODEL MP111
* PINOUT ORDER +IN -IN +ILIM -ILIM OUT +VB -VB
*               1   2    5     4    3   6   7
*              COMP COMP +VS -VS
*                8    9   10  11
* NOTE THAT UPPER AND LOWER FETS ARE BROUGHT
* TO THE OUTPUT ON ONE PIN IN THE MODEL
.SUBCKT MP111 1 2 5 4 3 6 7 8 9 10 11
X1 10 12 13 IRF3710S
X7 11 14 15 IRF5210S
R77 16 6 15
C1 6 17 470E-12
R83 18 12 10
R85 19 14 10
R86 9 20 100
R93 7 21 350
R94 7 22 113
Q12 8 16 6 Q907
D6 8 6 C8V2
E2 23 24 6 7 -30E-6
D8 25 0 DD
I1 0 25 1E-3
V16 25 26 0.7
E3 27 0 26 0 -571
R98 0 26 1E6
R99 0 27 1E6
E4 28 18 29 0 -135E-6
E5 30 19 29 0 135E-6
V17 27 29 27
R100 0 29 1E6
D9 23 31 DZ
D10 32 33 C5V6
J2 32 34 35 N912
J3 8 36 37 N912
R101 38 35 30
R102 38 37 30
Q13 33 39 40 Q907B
Q14 8 33 41 Q907B
R103 40 6 82.5
R104 41 6 82.5
J4 8 32 8 N912
R105 32 33 1E5
D11 40 6 C8V2
V18 36 42 -5.25E-3
R106 33 39 70
R109 17 16 120
Q15 43 44 4 Q222
Q16 45 44 4 Q908
R110 44 5 100
R116 2 34 10
R117 1 46 10
C4 6 47 470E-12
C5 47 7 470E-12
E99 48 49 50 0 0.15
R118 50 51 1E6
R119 0 50 100
C25 51 50 1E-12
E100 51 0 6 0 1
R120 49 48 1E9
E101 49 52 53 0 -0.15
R121 53 54 1E6
R122 0 53 100
C26 54 53 20E-12
E102 54 0 7 0 1
R123 52 49 1E9
E103 52 55 56 0 -0.14
R124 56 57 1E6
R125 0 56 100
C27 57 56 20E-12
E104 57 0 58 0 1
R126 55 52 1E9
E105 55 46 59 60 4
D17 59 0 DVN
I7 0 59 100E-6
D18 60 0 DVN
I8 0 60 100E-6
R127 46 55 1E9
E106 61 0 48 0 1
E107 62 0 34 0 1
R128 58 61 1E3
R129 58 62 1E3
R130 7 6 3.5E3
E108 42 48 29 0 50E-6
R131 48 42 1E9
C28 34 0 2E-12
C29 48 0 2E-12
I9 6 7 -7E-3
R133 24 23 1E9
X10 63 7 22 D560
X11 38 7 21 D560
X12 20 8 17 P450B
R134 0 47 1
R145 13 3 0.043
R148 15 3 0.001
Q17 6 20 64 F458
Q18 7 31 65 F558
Q19 66 66 20 F558
Q20 66 66 31 F458
Q21 6 24 67 F458
Q22 7 63 68 F558
Q23 69 69 24 F558
Q24 69 69 63 F458
R149 28 64 2
R150 65 28 2
R151 30 67 2
R152 68 30 2
C31 31 24 2200E-12
C32 8 9 3E-12
D19 20 43 D48
D20 45 24 D48
C34 43 44 4700E-12
C35 44 45 4700E-12
R158 0 18 1E12
R159 0 19 1E12
.MODEL D48 D RS=10 IS=1E-15 CJO=1E-12 TT=1N
.MODEL F458  NPN BF=210 IKF=0.5 VAF=1050
+XTB=1.4 ISE=2.1E-14
+ISC=6.42E-12  RB=0.5 RE=0.224 RC=0.134 CJC=12.75E-12
+MJC=0.3966 VJC=0.4332 CJE=183E-12 TF=2.49E-9
.MODEL F558 PNP BF=200 IKF=0.5 VAF=349
+ISE=3.35E-14  ISC=9.42E-12
+ RB=0.133 RE=0.5725 RC=0.748 CJC=26.4E-12 MJC=0.5932 
+VJC=0.9135 CJE=165E-12 TF=1.7E-9
.MODEL DVN D KF=5E-16
.MODEL DD D
.MODEL MSD PMOS KP=0.05 VTO=-2
.MODEL Q222 NPN IS=2E-13
.MODEL Q908 PNP IS=1E-13
.MODEL DZ D BV=5.86 IBV=0.001 RS=5
.MODEL N912 NJF VTO=-3 BETA=3.2E-3 RS=12 RD=50
+ IS=1E-18 LAMBDA=3E-4 CGS=10E-12 CGD=0.5E-12
.MODEL C5V6 D IS=1E-15 RS=5 N=1 BV=5.6 IBV=1E-4
.MODEL C8V2 D IS=1E-15 RS=5 N=1 BV=8.2 IBV=1E-4
.MODEL Q907 PNP IS=1.1E-13 BF=150 BR=6 NF=1.2
+ RC=1 IKF=0.1 VAF=90 XTB=1.5 NE=1.8 ISE=1.5E-13
+ CJE=20E-12 VJE=0.8 MJE=1.2 CJC=15E-12 VJC=0.57
+ MJC=0.3 TF=0.5E-9 TR=35E-9
.MODEL Q907B PNP IS=1.1E-13 BF=150 BR=6 NF=1.2
+ RC=1 IKF=0.1 VAF=900 XTB=1.5 NE=1.8 ISE=1.5E-13
+ CJE=20E-12 VJE=0.8 MJE=1.2 CJC=15E-12 VJC=0.57
+ MJC=0.3 TF=0.5E-9 TR=35E-9
.ENDS MP111
.SUBCKT D560 10 20 30
M1 10 20 30 30 DMOS L=1U W=1U
CGS 20 30 43E-12
.MODEL DMOS NMOS LEVEL=3 VMAX=9E5 THETA=6E-3 ETA=2E-4
+ VTO=-2.5 KP=0.07 RS=2 RD=19
.ENDS
.SUBCKT P450B 10 20 30
M1 10 20 30 30 DMOS L=1U W=1U
RDS 10 30 1E6
CGS 20 30 85E-12
CDG 10 20 10E-12
.MODEL DMOS PMOS LEVEL=3 VMAX=9E5 THETA=60E-3 ETA=2E-3
+ VTO=-2 KP=0.05 RS=3 RD=10)
.ENDS
.SUBCKT irf3710s 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr 24, 96
* Model format: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.73708 LAMBDA=0 KP=46.8579
+CGSO=2.80329e-05 CGDO=1.13722e-06
RS 8 3 0.0113627
D1 3 1 MD
.MODEL MD D IS=9.43288e-12 RS=0.00528331 N=1.07071 BV=100
+IBV=0.00025 EG=1 XTI=3.04957 TT=1e-07
+CJO=1.84661e-09 VJ=0.520811 M=0.45842 FC=0.1
RDS 3 1 4e+06
RD 9 1 0.00538705
RG 2 7 3.87439
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=4.17518e-09 VJ=0.5 M=0.749785 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=3e-15 N=0.40022 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 6.93446e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.40022
.ENDS
.SUBCKT irf5210s 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr 23, 96
* Model format: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-3.79917 LAMBDA=0.00220079 KP=12.9564
+CGSO=2.34655e-05 CGDO=1e-11
RS 8 3 0.0218795
D1 1 3 MD
.MODEL MD D IS=2.06405e-13 RS=0.00826096 N=0.960301 BV=100
+IBV=0.00025 EG=1 XTI=3.14871 TT=1e-07
+CJO=1.88397e-09 VJ=1.14128 M=0.533786 FC=0.1
RDS 3 1 4e+06
RD 9 1 0.014128
RG 2 7 7.71191
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=4.75211e-09 VJ=1.32261 M=0.798237 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=3e-15 N=0.40011 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 6.15698e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.40011
.ENDS
* END MODEL MP111
*************